US07618967B2
Triethylamine (4.5 mL; 32 mmol; 1.2 equiv.) was added to 3-bromo-indan-1-one (5.6 g; 27 mmol) in 100 mL THF at 0° C. and stirred 1 h at r.t. The reaction mixture was filtered to remove triethylammonium bromide and concentrated in vacuo to give inden-1-one. 7-Fluoroindole (3.3 g, 22 mmol ) and Sc(OTf)3 (550mg, 5 mol %) were added to inden-1-one in 100 mL CH2Cl2 at 0° C. The reaction mixture was allowed to warm to room temperature over night. 100 mL ethyl acetate was added and the mixture was filtered through a silica gel plug and concentrated in vacuo. After flash chromatography (heptane/ethyl acetate, silica gel) 5.9 g 3-(7-fluoro-1H-indol-3-yl)-indan-1-one (82%) was isolated.

reactant | Triethylamine | 32 mmol, 4.5 mL, 1.2 equiv. | C(C)N(CC)CC | C6H15N
reactant | 3-bromo-indan-1-one | 27 mmol, 5.6 g | BrC1CC(C2=CC=CC=C12)=O | C9H7BrO
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | inden-1-one | C1(C=CC2=CC=CC=C12)=O | C9H6O
